US05081237
To a solution of allyl (5R,6S)-3-[2-{(2S,4S)-1-allyloxycarbonyl-4-(t-butyldimethylsilyloxy)pyrrolidin-2-yl}-1-methylethenyl]-6-[(1R)-1-t-butyldimethylsilyloxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (2.85 g) in tetrahydrofuran (20 ml) were added acetic acid (2.9 ml) and 1.0M solution of tetrabutylammonium fluoride in tetrahydrofuran (25.3 ml) in turn at ambient temperature. After stirring at ambient temperature for 9 hours, the solution was poured into a mixture of water (230 ml) and ethyl acetate (230 ml). The organic layer was separated, washed 5 times with water (100 ml), washed two times with brine (50 ml) dried over magnesium sulfate, and evaporated. To this residue were added tetrahydrofuran (10 ml), ethanol (3.5 ml) and triphenylphosphine (0.08 g). To this solution were added morpholine (0.28 ml) and tetrakis(triphenylphosphine)palladium(0) (0.11 g) successively at ambient temperature. Stirring at ambient temperature for 1 hour gave a precipitate, which was collected by filtration, washed with dichloromethane and dissolved in water (80 ml). The solution was washed with ethyl acetate (40 ml×3) and lyophilized to give (5R,6S)-6-[(1R)-1-hydroxyethyl]-3-[2-{(2S,4S)-4-hydroxypyrrolidin-2-yl}-1-methylethenyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid (155 mg).

reactant | allyl (5R,6S)-3-[2-{(2S,4S)-1-allyloxycarbonyl-4-(t-butyldimethylsilyloxy)pyrrolidin-2-yl}-1-methylethenyl]-6-[(1R)-1-t-butyldimethylsilyloxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 2.85 g | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)O[Si](C)(C)C(C)(C)C)C=C(C)C1=C(N2C([C@@H]([C@H]2C1)[C@@H](C)O[Si](C)(C)C(C)(C)C)=O)C(=O)OCC=C | C35H58N2O7Si2
reactant | acetic acid | 2.9 ml | C(C)(=O)O | C2H4O2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | 230 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25.3 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 230 ml | C(C)(=O)OCC | C4H8O2
product | (5R,6S)-6-[(1R)-1-hydroxyethyl]-3-[2-{(2S,4S)-4-hydroxypyrrolidin-2-yl}-1-methylethenyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid | 155 mg | O[C@H](C)[C@@H]1[C@H]2CC(=C(N2C1=O)C(=O)O)C(=C[C@H]1NC[C@H](C1)O)C | C16H22N2O5
